US09062076B2
To a stirred solution of (Z)-2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetic acid (789 mg, 3 mmol), methyl 2-aminobenzoate (544 mg, 3.6 mmol), HOBt (587 mg, 3.6 mmol), EDCl (688 mg, 3.6 mmol) and DMAP (439 mg, 3.6 mmol) in dry DMF (30 mL) was added Et3N (2 mL, 15 mmol) dropwise at room temperature. The resulting mixture was stirred at room temperature overnight then the reaction was quenched with water and extracted with DCM. The combined organic phases were washed with brine, dried over sodium sulfate and evaporated to give the crude product which was purified by flash chromatography using DCM/MeOH 40:1 (v:v) as eluent to give (Z)-methyl 2-(2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetamido)benzoate (280 mg, 80%) LC-MS (ES-API); rt 8.39 min; m/z calculated for C21H20N2O6 [M+Na]+ 419.1, found 419.1.

reactant | (Z)-2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetic acid | 3 mmol, 789 mg | COC=1C=C2/C(/CNC(C2=CC1OC)=O)=C/C(=O)O | C13H13NO5
reactant | methyl 2-aminobenzoate | 3.6 mmol, 544 mg | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | HOBt | 3.6 mmol, 587 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 3.6 mmol, 688 mg | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 15 mmol, 2 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 3.6 mmol, 439 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (Z)-methyl 2-(2-(6,7-dimethoxy-1-oxo-2,3-dihydroisoquinolin-4(1H)-ylidene)acetamido)benzoate | 280 mg, 80% | COC=1C=C2/C(/CNC(C2=CC1OC)=O)=C/C(=O)NC1=C(C(=O)OC)C=CC=C1 | C21H20N2O6
